US06653305B2
4-[(3-chloro-4-fluorophenyl)amino]-6-[(4-{N-[(methoxycarbonyl)methyl]-N-((R)-2-hydroxyprop-1-yl)amino}-1-oxo-2-buten-1-yl)amino]-7-cyclopropylmethoxy quinazoline
Obtained by treating a methanolic solution of 4-[(3-chloro-4-fluorophenyl)amino]-6-{[4-((R)-6-methyl-2-oxomorpholin-4-yl)-1-oxo-2-buten-1-yl]amino}-7-cyclopropylmethoxyquinazoline with ethereal hydrochloric acid at room temperature. Rf value: 0.37 (silica gel, methylene chloride/methanol=20:1); mass spectrum (ESI−): m/z=570, 572 [M−H]−.

reactant | 4-[(3-chloro-4-fluorophenyl)amino]-6-{[4-((R)-6-methyl-2-oxomorpholin-4-yl)-1-oxo-2-buten-1-yl]amino}-7-cyclopropylmethoxyquinazoline | ClC=1C=C(C=CC1F)NC1=NC=NC2=CC(=C(C=C12)NC(C=CCN1CC(O[C@@H](C1)C)=O)=O)OCC1CC1 | C27H27ClFN5O4
reactant | hydrochloric acid | Cl | ClH
reactant | methylene chloride methanol | C(Cl)Cl.CO
product | 4-[(3-chloro-4-fluorophenyl)amino]-6-[(4-{N-[(methoxycarbonyl)methyl]-N-((R)-2-hydroxyprop-1-yl)amino}-1-oxo-2-buten-1-yl)amino]-7-cyclopropylmethoxy quinazoline | ClC=1C=C(C=CC1F)NC1=NC=NC2=CC(=C(C=C12)NC(C=CCN(C[C@@H](C)O)CC(=O)OC)=O)OCC1CC1 | C28H31ClFN5O5
